US06218128B1
A solution of 6-ethynyl-2,2-dimethylthiochroman-4-one (82.0 mg. 0.38 mmol) and ethyl 4-iodobenzoate (104.9 mg. 0.38 mmol.) in 5.0 mL Et3N was purged with argon for 10 minutes. To this solution was added bis(triphenylphosphine)palladium(II) chloride (88.0 mg. 0.12 mmol) and copper (I) iodide (22.9 mg. 0.12 mmol). After sparging for an additional 5 minutes with argon, the solution was stirred overnight at room temperature. The reaction mixture was filtered through a pad of Celite using an Et2O wash. Concentration of the filtrate under reduced pressure, followed by column chromatography of the residual solid afforded 100 mg (72%) of ethyl 4-[(2,2-dimethyl-4-oxo-thiochroman-6-yl)ethynyl]-benzoate as a yellow solid. 1H NMR (300 MHz, CDCl3) δ: 8.25 (1H, d, J=1.8 Hz), 8.00 (2H, d, J=8.4 Hz), 7.55 (2H, d, J=8.4 Hz), 7.53 (1H, dd, J=1.8, 8.2 Hz), 7.21 (1H, d, J=8.2 Hz), 4.37 (2H, q, J=7.1 Hz), 2.88 (2H, s), 1.47 (6H, s), 1.39 (3H, t, J=7.1 Hz).

reactant | 6-ethynyl-2,2-dimethylthiochroman-4-one | 0.38 mmol, 82.0 mg | C(#C)C=1C=C2C(CC(SC2=CC1)(C)C)=O | C13H12OS
reactant | ethyl 4-iodobenzoate | 0.38 mmol, 104.9 mg | IC1=CC=C(C(=O)OCC)C=C1 | C9H9IO2
solvent | Et3N | 5.0 mL | CCN(CC)CC | C6H15N
catalyst | bis(triphenylphosphine)palladium(II) chloride | 0.12 mmol, 88.0 mg | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
catalyst | copper (I) iodide | 0.12 mmol, 22.9 mg | [Cu]I
product | ethyl 4-[(2,2-dimethyl-4-oxo-thiochroman-6-yl)ethynyl]-benzoate | 100 mg, 72% | CC1(SC2=CC=C(C=C2C(C1)=O)C#CC1=CC=C(C(=O)OCC)C=C1)C | C22H20O3S
